US07375115B2
3-[1-[2-(tert-Butyldiphenylsiloxy)ethyl]cyclohexyl]propionitrile
To a solution of [2-[1-[2-(tert-butyldiphenylsiloxy)ethyl]cyclohexyl]ethanol (1.25 g) dissolved in benzene (15 mL) were added acetone cyanohydrin (0.40 mL), tri-n-butylphosphine (1.08 mL) and 1,1-azobis(N,N-dimethylformamide) (754 mg). The solution was stirred at room temperature for 18 hours. The solvent was distilled off under reduced pressure, ethyl acetate was added and insolubles were filtered off. The solvent was distilled off under reduced pressure. The resulting residue was purified by column chromatography (silica gel, hexane:ethyl acetate=5:1) to give the title compound (1.07 g).

reactant | 2-[1-[2-(tert-butyldiphenylsiloxy)ethyl]cyclohexyl]ethanol | 1.25 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCC1(CCCCC1)CCO | C26H38O2Si
reactant | acetone cyanohydrin | 0.40 mL | CC(C#N)(O)C | C4H7NO
reactant | tri-n-butylphosphine | 1.08 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | benzene | 15 mL | C1=CC=CC=C1 | C6H6
product | 3-[1-[2-(tert-Butyldiphenylsiloxy)ethyl]cyclohexyl]propionitrile | 1.07 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCC1(CCCCC1)CCC#N | C27H37NOSi
